US08802711B2
tert-butyl(cis)-3-carbamoylcyclopentylcarbamate
To a solution of racemic (1R,3S)-3-(tert-butoxycarbonylamino)cyclopentane-carboxylic acid (AMRI, 3.9 g, 17.0 mmol) in dichloromethane (100 mL) was added 1-hydroxybenzotriazole monohydrate (3.1 g, 20.4 mmol), N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (4.7 g, 24.7 mmol) and ammonium hydroxide (19.9 g, 170 mmol). The reaction mixture was stirred at room temperature for 16 h and then diluted with water (20 mL). The aqueous layer was extracted with dichloromethane (3×20 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was triturated in 50 mL of 1:1 ethyl acetate/hexanes and collected by filtration to obtain 1.7 g of the title compound. MS (ESI+) M/Z 228 [M+H]+.

reactant | racemic (1R,3S)-3-(tert-butoxycarbonylamino)cyclopentane-carboxylic acid | 17.0 mmol, 3.9 g | C(C)(C)(C)OC(=O)NC1CC(CC1)C(=O)O | C11H19NO4
reactant | 1-hydroxybenzotriazole monohydrate | 20.4 mmol, 3.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 24.7 mmol, 4.7 g | Cl.CN(CCCN=C=NCC)C
reactant | ammonium hydroxide | 170 mmol, 19.9 g | [OH-].[NH4+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
product | tert-butyl(cis)-3-carbamoylcyclopentylcarbamate | 1.7 g | C(N)(=O)[C@H]1C[C@H](CC1)NC(OC(C)(C)C)=O | C11H20N2O3
